US07456164B2
1-(4-{4-[(1-cyclobutylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine
4-{4-[(1-cyclobutylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-carbonitrile (0.29 g, 0.89 mmol), was dissolved in THF (5 mL). The solution was cooled to 0° C. under nitrogen. Lithium aluminiumhydride (2.7 mL, 1.0M solution in diethyl ether) was added dropwise. The reaction was stirred at 0° C. for 30 minutes, then warmed up to ambient temperature for 4 hours under a nitrogen atmosphere until complete. The reaction was cooled to 0° C., water (0.1 mL) was added dropwise followed by sodium hydroxide (2.0M, 0.1 mL) and water (0.3 mL). The mixture was filtered (using dichloromethane:methanol (90:10)) through celite. The organics were dried over sodium sulphate, filtered and concentrated in vacuo to provide a clear oil. This was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (96:4:0.4 to 90:10:1) to provide the title compound (0.175 g, 59%) as a clear colourless oil. 1H NMR (400 MHz, CDCl3) δ 1.60-1.70 (m, 2H), 1.70-1.85 (m, 2H), 1.85-1.95 (m, 2H), 1.95-2.06 (m, 2H), 2.1-2.18 (m, 2H), 2.79 (s, 2H), 2.9 (m, 1H), 3.1 (t, 2H), 3.2 (m, 1H), 3.48 (m, 2H), 3.54 (m, 2H), 3.8 (m, 2H), 4.10 (d, 2H), 6.9 (d, 2H), 7.2 (d, 2H). HRMS ESI+ m/z 331.2374 [MH]+.

reactant | 4-{4-[(1-cyclobutylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-carbonitrile | 0.89 mmol, 0.29 g | C1(CCC1)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)C#N | C20H26N2O2
reactant | Lithium aluminiumhydride | 1.0M, 2.7 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.1 mL | O | H2O
reactant | sodium hydroxide | 2.0M, 0.1 mL | [OH-].[Na+]
reactant | water | 0.3 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(4-{4-[(1-cyclobutylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine | 0.175 g, 59% | C1(CCC1)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CN | C20H30N2O2
